US05580982
3-[(4-(6-Chloropyrimidyl))piperazinyl]-6-methoxy-1,2-benzisoxazole
A stirred solution of 6-methoxy-3-(1-piperazinyl)-1,2-benzisoxazole (1.0 g), 4,6-dichloropyrimidine (0.64 g) and sodium bicarbonate (1.08 g) were refluxed in absolute ethanol under N2 for 90 minutes. TLC (silica gel 2/1 acetone/heptane) showed no presence of starting material. The reaction was allowed to cool to room temperature, partitioned between CH2Cl2 and water, extracted with CH2Cl2, dried over MgSO4 and concentrated in vacuo to afford 1.44 g of material. The material was further purified through recrystallization from CH2Cl2 /pet. ether to yield the product 1.1 g, m.p. 203°-204° C.

reactant | 6-methoxy-3-(1-piperazinyl)-1,2-benzisoxazole | 1.0 g | COC1=CC2=C(C(=NO2)N2CCNCC2)C=C1 | C12H15N3O2
reactant | 4,6-dichloropyrimidine | 0.64 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | sodium bicarbonate | 1.08 g | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-[(4-(6-Chloropyrimidyl))piperazinyl]-6-methoxy-1,2-benzisoxazole | 1.44 g | ClC1=CC=NC(=N1)N1CCN(CC1)C1=NOC2=C1C=CC(=C2)OC | C16H16ClN5O2
